US07935843B2
3-(4-Hydroxy-phenyl)-propionic acid tert-butoxycarbonylmethyl ester
To a mixture of 3-(4-hydroxy phenyl) propionic acid (20 grams, 120.35 mmol) and triethyl amine (30 grams, 296.47 mmol) in acetone (150 mL) is added t-butyl chloroacetate (19.6 grams, 130 mmol) drop wise, later it is stirred under reflux for 10 hours. The resulting solids are filtered off, acetone is distilled off, and water (100 mL) is added. The crude 4 is extracted into chloroform, and is washed with 5% sodium bicarbonate (2×25 mL), water (2×25 mL), and the product is dried over sodium sulphate, and is distilled to give crude 4 which can be purified from an appropriate solvent.

reactant | 3-(4-hydroxy phenyl) propionic acid | 120.35 mmol, 20 grams | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | triethyl amine | 296.47 mmol, 30 grams | C(C)N(CC)CC | C6H15N
reactant | t-butyl chloroacetate | 130 mmol, 19.6 grams | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3-(4-Hydroxy-phenyl)-propionic acid tert-butoxycarbonylmethyl ester | C(C)(C)(C)OC(=O)COC(CCC1=CC=C(C=C1)O)=O | C15H20O5
